US09359371B2
In absolute anhydrous THF (10 mL) was dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulphinyl)-N-(pyrimidin-2-ylmethyl) pyrimidine-5-formamide (100 mg, 0.22 mmol). Several drops of triethylamine were added, then 3-azabicyclo[3.1.0]hexan hydrochloride salt (42 mg, 0.35 mmol) was added. The reaction mixture was heated to reflux overnight. The solvent was removed by rotary evaporation, and water was added, followed by extraction with DCM. The organic phase was dried over sodium sulfate and purified by silica gel column chromatography (DCM/methanol=20/1 to 10/1). 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide as a white solid was obtained (40 mg, 39% yield).

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulphinyl)-N-(pyrimidin-2-ylmethyl) pyrimidine-5-formamide | 0.22 mmol, 100 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)S(=O)C)C=CC1OC | C19H19ClN6O3S
reactant | 3-azabicyclo[3.1.0]hexan hydrochloride salt | 0.35 mmol, 42 mg | Cl.C12CNCC2C1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | triethylamine | Several drops | C(C)N(CC)CC | C6H15N
product | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 39% yield | C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)NCC1=NC=CC=N1 | C23H24ClN7O2
